US05024912
7.90 g (26.7 m moles) of the previously obtained 5-(4-amino-benzylidene)-5H-dibenzo[a,d]cycloheptene, 22.0 g (101 m mole) of p-iodotoluene, 11.0 g (79.6 m moles) of anhydrous potassium carbonate and 2.2 g of copper powder were added to 30 ml of o-dichlorobenzene, and the resulting mixture was stirred and refluxed over an oil bath kept at about 190° C. for 7 hours. After the end of reaction, the reaction mixture was subjected to filtration by suction, and the filtrate was washed successively with an aqueous 3-5% sodium thiosulfate solution and an aqueous saturated NaCl solution. The organic layer was dried over anhydrous sodium sulfate and then the solvent was removed therefrom under reduced pressure. The residue was admixed with about 60 ml of acetone, and the precipitated crystal was recovered therefrom by filtration, and recrystallized from ethyl acetate-n-hexane solvent mixture, whereby 9.52 g of 5-[4(di-p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene was obtained (yield: 75.0%). The melting point was 168.0°-169.0° C. Elemental analysis as C36H29N was as follows:

reactant | 5-(4-amino-benzylidene)-5H-dibenzo[a,d]cycloheptene | NC1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1 | C22H17N
reactant | p-iodotoluene | 22.0 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 2.2 g | [Cu] | Cu
solvent | o-dichlorobenzene | 30 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-[4(di-p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene | 9.52 g, yield: 75.0% | C1(=CC=C(C=C1)N(C1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1)C1=CC=C(C=C1)C)C | C36H29N
